US07960394B2
2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-8-methoxy-3-methylpyrido[3,2-d]pyrimidin-4(3H)-one
The entitled compound was obtained as a pale yellow solid (m.p. 182.2-205.2° C.), according to the method of Example 15 but starting from 3-amino-4-methoxypyridin-2-carboxylic acid, methylamine and 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde.

reactant | 3-amino-4-methoxypyridin-2-carboxylic acid | NC=1C(=NC=CC1OC)C(=O)O | C7H8N2O3
reactant | methylamine | CN | CH5N
reactant | 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C16H21NO2
product | 2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-8-methoxy-3-methylpyrido[3,2-d]pyrimidin-4(3H)-one | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=1N(C(C2=C(N1)C(=CC=N2)OC)=O)C | C24H28N4O3
